US07371743B2
(h) N-[1-(5-chloro-1H-benzimidazol-2-yl)-1-(1-methyl-pyrazol-3-yl)-methyl]-3-methyl-4-(morpholin-3-on-4-yl)-benzamide
Prepared analogously to Example 1f from 3-methyl-4-(morpholin-3-on-4-yl)-benzoic acid and 1-(5-chloro-1H-benzimidazol-2-yl)-1-(1-methyl-pyrazol-3-yl)-methylamine with TBTU and DIPEA in THF.

reactant | 3-methyl-4-(morpholin-3-on-4-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1C(COCC1)=O | C12H13NO4
reactant | 1-(5-chloro-1H-benzimidazol-2-yl)-1-(1-methyl-pyrazol-3-yl)-methylamine | ClC1=CC2=C(NC(=N2)C(C2=NN(C=C2)C)N)C=C1 | C12H12ClN5
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | N-[1-(5-chloro-1H-benzimidazol-2-yl)-1-(1-methyl-pyrazol-3-yl)-methyl]-3-methyl-4-(morpholin-3-on-4-yl)-benzamide | ClC1=CC2=C(NC(=N2)C(C2=NN(C=C2)C)NC(C2=CC(=C(C=C2)N2C(COCC2)=O)C)=O)C=C1 | C24H23ClN6O3
